US07427632B2
4-{2-[(3-Chloro-1H-indole-6-carbonyl)amino]-2-cyclopentyl-ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester
Using coupling method A, 4-(2-amino-2-cyclopentyl-ethoxymethyl)piperidine-1-carboxylic acid tert-butyl ester (460 mg, 1.4 mmol) and 3-chloroindole-6-carboxylic acid (275 mg, 1.4 mmol) afforded, after purification (SiO2: 40% EtOAc in hexane), 211 mg (30%) of the title compound.

reactant | 4-(2-amino-2-cyclopentyl-ethoxymethyl)piperidine-1-carboxylic acid tert-butyl ester | 1.4 mmol, 460 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1CCCC1)N | C18H34N2O3
reactant | 3-chloroindole-6-carboxylic acid | 1.4 mmol, 275 mg | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
product | 4-{2-[(3-Chloro-1H-indole-6-carbonyl)amino]-2-cyclopentyl-ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1CCCC1)NC(=O)C1=CC=C2C(=CNC2=C1)Cl | C27H38ClN3O4
